US09290487B2
Step 1 Synthesis of 7-bromo-4,5-difluoro-2-methyl-1-benzofuran
Potassium carbonate (1.38 g, 10.0 mmol) and propargyl bromide (0.414 mL, 5.50 mmol) were added to a solution (25 mL) of 2-bromo-4,5-difluorophenol (1.05 g, 5.00 mmol) in DMF, and stirred at room temperature overnight. The solvent was distilled away under reduced pressure, and after diluted with ethyl acetate, the resultant was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was distilled away, and the residue was purified by silica gel chromatography (hexane/ethyl acetate). To the resulting compound (1.18 g, 4.78 mmol), cesium fluoride (872 mg, 5.74 mmol) and dimethylaniline (7 mL) were added, and stirred at 170° C. overnight. To the reaction solution, ethyl acetate and a 2 N hydrochloric acid aqueous solution were added and stirred. After the insoluble material was filtered off, extraction was performed with ethyl acetate. The organic phase was washed with a saturated aqueous sodium hydrogen carbonate solution and saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane) to thus obtain the title compound.

reactant | Potassium carbonate | 10.0 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 5.50 mmol, 0.414 mL | C(C#C)Br | C3H3Br
reactant | 2-bromo-4,5-difluorophenol | 5.00 mmol, 25 mL, 1.05 g | BrC1=C(C=C(C(=C1)F)F)O | C6H3BrF2O
reactant | cesium fluoride | 5.74 mmol, 872 mg | [F-].[Cs+]
reactant | dimethylaniline | 7 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-bromo-4,5-difluoro-2-methyl-1-benzofuran | yield: 14% | BrC1=CC(=C(C=2C=C(OC21)C)F)F | C9H5BrF2O
